* E:\SOFTWARE\EXERCISE LTSPICE\WHY_CMOS_WHY\reversed_cmos.asc
M1 out IN 0 0 PMOS l=180n w=2u
M2 Vdd IN out Vdd NMOS l=180n w=1u
C1 out 0 0.036p
V§Inp_Supp1 IN 0 PULSE(0 1.8 0 1p 1p 10n 20n)
Vdd1 Vdd 0 1.8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\BHUVANESH\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
* REVERSED CMOS STRUCTURE
* PULL UP = NMOS | PULL DOWN = PMOS
.op
.tran 0 80n .1n .1
.backanno
.end
